US04610991
A mixture of 18.2 g of 1-(2-aminobenzoyl)piperidine and 12.2 g of 2-methyl-4-chloropyridine in 5.0 ml of acetic acid was heated at reflux for six hours and then kept at room temperature overnight. The reaction mixture was concentrated in vacuo, and the residue treated with dilute acid to pH 2 and extracted with methylene dichloride. The aqueous layer was made basic with potassium carbonate and extracted with chloroform. Further work-up of this solution afforded 2.58 g of 1-[2-(2-methyl-4-pyridinylamino)benzoyl]piperidine, m.p. 93°-95° C. when recrystallized from ethyl acetate--ether--hexane.

reactant | 1-(2-aminobenzoyl)piperidine | 18.2 g | NC1=C(C(=O)N2CCCCC2)C=CC=C1 | C12H16N2O
reactant | 2-methyl-4-chloropyridine | 12.2 g | CC1=NC=CC(=C1)Cl | C6H6ClN
solvent | acetic acid | 5.0 ml | C(C)(=O)O | C2H4O2
product | 1-[2-(2-methyl-4-pyridinylamino)benzoyl]piperidine | 2.58 g | CC1=NC=CC(=C1)NC1=C(C(=O)N2CCCCC2)C=CC=C1 | C18H21N3O
